US08030305B2
6-{6-[1-(2-Methoxy-ethyl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[4,3-b]pyridazin-3-yl methyl}-quinoline
To a solution of 6-[6-(1H-Pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline as prepared in Example 3 (19 mg, 0.06 mmol) and K2CO3 (12 mg, 0.09 mmol) in EtOH (2 mL) was added 2-bromoethyl methyl ether (8 μL, 0.09 mmol). The reaction was stirred at rt overnight. The reaction was concentrated in vacuo followed by purification by HPLC (5-65% CH3CN over 35 min) resulting in the title compound (2.8 mg, 15%) as a clear glass. 1H-NMR (CD3OD): δ 9.05-9.03 (1H, dd, J=3.7, 5.3 Hz), 9.02-8.99 (1H, d, J=7.8 Hz), 8.32 (1H, s), 8.27 (1H, s), 8.18-8.08 (4H, m), 7.95-7.91 (1H, q, J=3.0, 5.5 Hz), 7.66-7.63 (1H, d, J=9.8 Hz), 4.84 (2H, s), 4.30-4.28 (2H, t, 4.8 Hz), 3.70-3.76 (2H, t, J=5.3 Hz), 3.23 (2H, br s). ESI-MS (m/z): Calcd. For C21H19N7O: 385.17; found: 386.2 (M+H).

reactant | 6-[6-(1H-Pyrazol-4-yl)-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl]-quinoline | N1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C18H13N7
reactant | K2CO3 | 0.09 mmol, 12 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-bromoethyl methyl ether | 0.09 mmol, 8 μL | COCCBr | C3H7BrO
solvent | EtOH | 2 mL | CCO | C2H6O
product | 6-{6-[1-(2-Methoxy-ethyl)-1H-pyrazol-4-yl]-[1,2,4]triazolo[4,3-b]pyridazin-3-yl methyl}-quinoline | 2.8 mg, 15% | COCCN1N=CC(=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C=CC=NC1=CC2 | C21H19N7O
